US07109186B2
Comppound 870: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [3-(3,4-dichlorophenyl)-propyl]-methoxy-amide
Reaction of N-[3-(3,4-dichlorophenyl)-propyl]-2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-acetamide (0.480 g, 1.16 mmol) with the paraformaldehyde-methylamine adduct in methanol using a procedure similar to the one described in the preparation of compound 44 (method 44B) gave 0.250 g (58% yield) of the title compound as white crystals; mp 106–108° C. (ethyl acetate-hexane). 1HNMR 400 MHz (CDCl3) δ (ppm); 2.01 (2H, m, CH2), 2.65 (2H, t, J=7.6 Hz, CH2), 3.14 (3H, s, NCH3), 3.73 (3H, s, OCH3), 3.77 (2H, t, J=7.0 Hz, NCH2), 4.11 (2H, s, NCH2), 7.04 (1H, dd, J=2.0 Hz and J=8.1 Hz, aromatic), 7.30 (1H, d, J=2.0 Hz, aromatic), 7.36 (1H, d, J=8.1 Hz, aromatic), 11.67 (1H, broad s, OH). Anal. Calcd for C16H18Cl2N2O4: C, 51.49; H, 4.86; N, 7.51. Found: C, 51.65; H, 4.90; N, 7.45.

reactant | N-[3-(3,4-dichlorophenyl)-propyl]-2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-acetamide | 1.16 mmol, 0.480 g | ClC=1C=C(C=CC1Cl)CCCN(C(C=C1OC(OC1=O)(C)C)=O)OC | C17H19Cl2NO5
reactant | paraformaldehyde methylamine | C=O.CN
reactant | methanol | CO | CH4O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [3-(3,4-dichlorophenyl)-propyl]-methoxy-amide | 0.250 g, 58% yield | ClC=1C=C(C=CC1Cl)CCCN(C(=O)C=1CN(C(C1O)=O)C)OC | C16H18Cl2N2O4
